US04036977
4-(2-Methyl-2-adamantyloxy)aniline
A solution of 15.0 g. (0.0522 mole) of 4-(2-methyl-2-adamantyloxy)-nitrobenzene in 150 ml. of ethyl acetate was hydrogenated over 10% Pd/C. The crude product was recrystallized from CH2Cl2 and Skellysolve B to give 8.6 g. of light tan solid, m.p. 95.6°-97.9° C.

reactant | 4-(2-methyl-2-adamantyloxy)-nitrobenzene | 0.0522 mole | CC1(C2CC3CC(CC1C3)C2)OC2=CC=C(C=C2)[N+](=O)[O-] | C17H21NO3
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Methyl-2-adamantyloxy)aniline | CC1(C2CC3CC(CC1C3)C2)OC2=CC=C(N)C=C2 | C17H23NO
